US08609653B2
A solution of methyl 2-(tert-butoxy)-2-(1-(4-fluorobenzyl)-6-methyl-4-(p-tolyl)-1H-pyrrolo[2,3-b]pyridin-5-yl)acetate (44 mg, 0.093 mmol) in methanol (0.5 mL) and tetrahydrofuran (THF) (0.500 mL) was treated with LiOH (0.278 mL, 0.556 mmol) and stirred at 60° C. for 18 hours. The reaction was concentrated and purified with reverse phase HPLC (20-100% MeCN/H2O-0.1% TFA) to afford 2-(tert-butoxy)-2-(1-(4-fluorobenzyl)-6-methyl-4-(p-tolyl)-1H-pyrrolo[2,3-b]pyridin-5-yl)acetic acid (30.8 mg, 0.066 mmol, 71.4% yield) as white solid: 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 7.69-7.56 (m, 1 H), 7.43-7.30 (m, 3 H), 7.29-7.25 (m, 2 H), 7.08-6.91 (m, 3 H), 6.24 (d, J=3.6 Hz, 1 H), 5.65-5.38 (m, 3 H), 2.77 (s, 3 H), 2.46 (s, 3 H), 0.94 (s, 9 H); LCMS (m/z) ES+=461 (M+1).

reactant | methyl 2-(tert-butoxy)-2-(1-(4-fluorobenzyl)-6-methyl-4-(p-tolyl)-1H-pyrrolo[2,3-b]pyridin-5-yl)acetate | 0.093 mmol, 44 mg | C(C)(C)(C)OC(C(=O)OC)C=1C(=C2C(=NC1C)N(C=C2)CC2=CC=C(C=C2)F)C2=CC=C(C=C2)C | C29H31FN2O3
reactant | LiOH | 0.556 mmol, 0.278 mL | [Li+].[OH-]
solvent | methanol | 0.5 mL | CO | CH4O
solvent | tetrahydrofuran | 0.500 mL | O1CCCC1 | C4H8O
product | 2-(tert-butoxy)-2-(1-(4-fluorobenzyl)-6-methyl-4-(p-tolyl)-1H-pyrrolo[2,3-b]pyridin-5-yl)acetic acid | 0.066 mmol, 30.8 mg, 71.4% yield | C(C)(C)(C)OC(C(=O)O)C=1C(=C2C(=NC1C)N(C=C2)CC2=CC=C(C=C2)F)C2=CC=C(C=C2)C | C28H29FN2O3
